US09302989B2
N-[6-(methylamino)-6-oxohexyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting methylamine for 3-phenylpropan-1-amine and 6-[(1,3-dihydro-2H-isoindol-2-ylcarbonyl)amino]hexanoic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.60-7.72 (m, 1H), 7.25-7.33 (m, 4H), 6.24-6.29 (m, 1H), 4.57 (s, 4H), 2.94-3.09 (m, 2H), 2.54 (d, J=4.6 Hz, 3H), 2.30 (t, J=7.3 Hz, 1H), 2.04 (t, J=7.4 Hz, 1H), 1.37-1.58 (m, 4H), 1.18-1.35 (m, 2H); MS (ESI(+)) m/e 290 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-[(1,3-dihydro-2H-isoindol-2-ylcarbonyl)amino]hexanoic acid | C1N(CC2=CC=CC=C12)C(=O)NCCCCCC(=O)O | C15H20N2O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-[6-(methylamino)-6-oxohexyl]-1,3-dihydro-2H-isoindole-2-carboxamide | CNC(CCCCCNC(=O)N1CC2=CC=CC=C2C1)=O | C16H23N3O2
